US08431578B2
(4-{5-[6-Chloro-2-(6-methyl-pyridin-2-yl)-pyrimidin-4-yl]-pyridin-3-yl}-phenyl)-(4-isopropyl-piperazin-1-yl)-methanone
This compound is prepared from 4,6-dichloro-2-(6-methyl-pyridin-2-yl)-pyrimidine (Int. B) and (4-isopropylpiperazin-1-yl)(4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)methanone (Int. I) analogously to Example 1: [M+H]+=513/515 as a brown solid.

reactant | 4,6-dichloro-2-(6-methyl-pyridin-2-yl)-pyrimidine | ClC1=NC(=NC(=C1)Cl)C1=NC(=CC=C1)C | C10H7Cl2N3
reactant | (4-isopropylpiperazin-1-yl)(4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)phenyl)methanone | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C25H34BN3O3
product | (4-{5-[6-Chloro-2-(6-methyl-pyridin-2-yl)-pyrimidin-4-yl]-pyridin-3-yl}-phenyl)-(4-isopropyl-piperazin-1-yl)-methanone | ClC1=CC(=NC(=N1)C1=NC(=CC=C1)C)C=1C=C(C=NC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C)C | C29H29ClN6O
